US07635684B2
2-(2-Nitrobenzenesulfonylamino)acetoamide
To a suspension of glycinamide hydrochloride (0.11 g) and triethylamine (0.35 mL) in dichloromethane (3 mL) was added 2-nitrobenzenesulfonyl chloride (0.27 g), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=20/1) to give the title compound (72 mg).

reactant | glycinamide hydrochloride | 0.11 g | Cl.NCC(=O)N
reactant | triethylamine | 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzenesulfonyl chloride | 0.27 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-(2-Nitrobenzenesulfonylamino)acetoamide | 72 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCC(=O)N | C8H9N3O5S
